US07625896B2
6-Morpholin-4-yl-pyridine-3-sulfonyl chloride (1.25 g, 4.8 mmol) was dissolved in a 0.5M solution of ammonia in dioxane (20 mL) and the mixture stirred for 16 hours at room temperature. The mixture was filtered and concentrated in vacuo to afford 6-morpholin-4-yl-pyridine-3-sulfonic acid amide as a white solid 1.1 g (96% yield).

reactant | 6-Morpholin-4-yl-pyridine-3-sulfonyl chloride | 4.8 mmol, 1.25 g | N1(CCOCC1)C1=CC=C(C=N1)S(=O)(=O)Cl | C9H11ClN2O3S
reactant | ammonia | N | H3N
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-morpholin-4-yl-pyridine-3-sulfonic acid amide | 1.1 g, 96% yield | N1(CCOCC1)C1=CC=C(C=N1)S(=O)(=O)N | C9H13N3O3S
